US07534791B2
Synthesis of 9. [2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzyl]-methyl-amine (Method 2.)
Lithium aluminum hydride (250 g, 6.6 mmol) is suspended in dry diethyl ether (50 mL) and cooled to 0° C. Aluminum chloride (295 mg, 2.2 mmol) dissolved in dry diethyl ether (50 mL) is added dropwise at 0-5° C. The cooling bath is removed and the mixture is stirred at ambient temperature for 1 hour. The resulting aluminum hydride reagent solution is cooled to 0° C. followed by dropwise addition of of 2-(benzo[b]thiophen-3-ylsulfanyl)-5,N-dimethyl-benzamide (327 mg, 2.0 mmol) in 10 mL dry THF. After complete addition the solution is allowed to heat to ambient temperature and stirring is continued for 16 hours. The mixture is cooled to 10° C. followed by slow dropwise addition of water (0.5 mL) followed by 2M sodium hydroxide (0.5 mL) and water (2.5 mL) to quench excessive reducing agent. The mixture is filtered and concentrated in vacuo. The remanence is redissolved in ethyl acetate (100 mL), dried (MgSO4) and concentrated in vacuo. The product is purified by preparative HPLC or by silica gel chromatography eluting with ethyl acetate-triethyl amine to furnish the title compound.

reactant | Lithium aluminum hydride | 6.6 mmol, 250 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Aluminum chloride | 2.2 mmol, 295 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(benzo[b]thiophen-3-ylsulfanyl)-5,N-dimethyl-benzamide | 2.0 mmol, 327 mg | S1C2=C(C(=C1)SC1=C(C(=O)NC)C=C(C=C1)C)C=CC=C2 | C17H15NOS2
reactant | sodium hydroxide | 2M, 0.5 mL | [OH-].[Na+]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
product | [2-(benzo[b]thiophen-3-ylsulfanyl)-5-methyl-benzyl]-methyl-amine | S1C2=C(C(=C1)SC1=C(CNC)C=C(C=C1)C)C=CC=C2 | C17H17NS2
